US06458810B1
To a stirred suspension of 3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine (2.5 g, 7.75 mmol) and di-tert-butyl dicarbonate (1.86 g, 8.52 mmol) in 1,4-dioxane (30 mL) is added DMAP (100 mg) at room temperature. The solution is stirred at room temperature for 18 hours. The solvent is removed in vacuo to give 1-tert-butoxycarbonyl-3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine which is further purified by column chromatography or recrystallization.

reactant | 3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | 7.75 mmol, 2.5 g | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O)=O | C15H11N3O8
reactant | di-tert-butyl dicarbonate | 8.52 mmol, 1.86 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-tert-butoxycarbonyl-3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | C(C)(C)(C)OC(=O)N1C(C(CC(C1=O)OC(C)=O)N1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O)=O | C20H19N3O10
